US06344580B1
Preparation of 5-(4-chlorobenzyl)-2,2-dimethylcyclopentanone
A suspension of 5-(4-chlorobenzyl)-5-cyano-2,2-dimethylcyclopentanone (5.0 g, 0.02 mole) in water is treated with sulfuric acid (50%, 25 ml), stirred for 5 hours at 140° C., cooled to room temperature, and extracted with toluene. The extracts are combined, washed with water, filtered through celite and concentrated in vacuo to afford the title product as a dark oil, 5.5 g (76.5% pure, 93.1% yield), identified by gas chromatography.

reactant | 5-(4-chlorobenzyl)-5-cyano-2,2-dimethylcyclopentanone | 0.02 mole, 5.0 g | ClC1=CC=C(CC2(CCC(C2=O)(C)C)C#N)C=C1 | C15H16ClNO
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-(4-chlorobenzyl)-2,2-dimethylcyclopentanone | 93.1% yield | ClC1=CC=C(CC2CCC(C2=O)(C)C)C=C1 | C14H17ClO
